US04948420
Preparation of diethyl-2-[4'-(2",4"-dichloro-phenoxy)-phenoxy]-propionyl-malonate
27.7 g of sodium-4-(2',4'-dichloro-phenoxy)-phenolate and 25.1 g of diethyl-2-chloro-propionyl-malonate are dissolved in 150 ml of dimethyl sulfoxide and the reaction mixture is stirred at 60° C. for 48 hours under stirring. The reaction mixture is filtered and the filtrate is evaporated. The residue is dissolved in 100 ml of benzene and washed successively with 100 ml of a saturated aqueous sodium hydrogen carbonate solution and water. The benzene solution is evaporated. Thus 30 g of the desired compound are obtained, yield 61%.

reactant | sodium 4-(2',4'-dichloro-phenoxy)-phenolate | 27.7 g | [Na].ClC1=C(OC2=CC=C(C=C2)[O-])C=CC(=C1)Cl
reactant | diethyl-2-chloro-propionyl-malonate | 25.1 g | C(C)OC(C(C(=O)OCC)C(C(C)Cl)=O)=O | C10H15ClO5
solvent | dimethyl sulfoxide | 150 ml | CS(=O)C | C2H6OS
product | diethyl-2-[4'-(2",4"-dichloro-phenoxy)-phenoxy]-propionyl-malonate | 30 g, yield 61% | C(C)OC(C(C(=O)OCC)C(C(C)OC1=CC=C(C=C1)OC1=C(C=C(C=C1)Cl)Cl)=O)=O | C22H22Cl2O7
